US06720338B2
ethyl 4′-fluoro-2-methyl-1,1′-biphenyl-4-carboxylate
The desired product was prepared by substituting 4-bromo-3-methylbenzoic acid ethyl ester and 4-fluorophenylboronic acid for Example 186B and Example 186A, respectively, in Example 186C.

reactant | 4-bromo-3-methylbenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Br)C)=O | C10H11BrO2
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | ethyl 4′-fluoro-2-methyl-1,1′-biphenyl-4-carboxylate | FC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OCC)C | C16H15FO2
